US07074817B2
1-Benzyl-7-[4-(trifluoromethoxy)phenyl]-1H-indole
1-Benzyl-7-bromo-1H-indole (0.677 g, 2.37 mmol) was coupled to 4-trifluoromethoxyphenylboronic acid (0.585 g, 2.84 mmol), using [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.0585 g, 0.0716 mmol), and potassium carbonate (0.492 g, 3.56 mmol), in dioxane (18 mL) and water (1.8 mL), according to the procedure described in Step 1 of Example 11. Purication by HPLC using hexane as the mobile phase yielded the title compound as a sage green solid (0.432 g, 50%). 1HNMR (300 MHz, DMSO-d6): δ 7.65 (d, 1H, J=7.5 Hz), 7.5 (d, 1H, J=3.8 Hz), 7.15-7.35 (m, 4H), 7.0-7.15 (m, 4H), 6.8 (d, 1H, J=7.5 Hz), 6.65 (d, 1H, J=3.8 Hz), 6.25 (d, 2H, J=7.5 Hz), and 5.05 ppm (s, 2H).

reactant | 1-Benzyl-7-bromo-1H-indole | 2.37 mmol, 0.677 g | C(C1=CC=CC=C1)N1C=CC2=CC=CC(=C12)Br | C15H12BrN
reactant | 4-trifluoromethoxyphenylboronic acid | 2.84 mmol, 0.585 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | dichloromethane | 0.0716 mmol, 0.0585 g | ClCCl | CH2Cl2
reactant | potassium carbonate | 3.56 mmol, 0.492 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.8 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | hexane | CCCCCC | C6H14
product | 1-Benzyl-7-[4-(trifluoromethoxy)phenyl]-1H-indole | 0.432 g, 50% | C(C1=CC=CC=C1)N1C=CC2=CC=CC(=C12)C1=CC=C(C=C1)OC(F)(F)F | C22H16F3NO
